* D:\repos\RFSoC_Ising_Machine\pcbs\eom_driver_v1\ltspice\eom_driver_sim.asc
V1 Vin 0 SINE(1.25 1.25 1kHz 0 0 0 100)
V2 0 -12 12
V3 +12 0 12
V4 0 -170 170
V5 +170 0 170
XU1 Vin N003 +12 -12 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N004 N005 +12 -12 N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 0 N001 +170 -170 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V6 N002 0 2.5
R1 N003 N002 10k
R2 N004 N003 10k
R3 N001 N005 1k
R4 Vout N001 50k
R5 Vout 0 1000k
.tran 0 10ms 0
.lib UniversalOpamps2.sub
.backanno
.end
